US04018794
By replacing in Example 24, step A, 4-benzoyl-3-benzyloxy-5-nitrobenzoic acid with 4-benzoyl-3-ethoxy-5-nitrobenzoic acid and following the procedure described, 5-amino-4-benzyl-3-ethoxybenzoic acid is obtained with a melting point of 165°-167° C.

reactant | 4-benzoyl-3-benzyloxy-5-nitrobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])OCC1=CC=CC=C1 | C21H15NO6
reactant | 4-benzoyl-3-ethoxy-5-nitrobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])OCC | C16H13NO6
product | 5-amino-4-benzyl-3-ethoxybenzoic acid | NC=1C(=C(C=C(C(=O)O)C1)OCC)CC1=CC=CC=C1 | C16H17NO3
